US07531545B2
To an ice cooled solution of Boc-D-cyclohexylglycine (10 g, 39 mmol) in DCM (200 mL), N,O-dimethylhydroxyamine HCl salt (4.6 g, 46 mmol), HOBT (7 g, 51 mmol), and TEA (11 mL) were added followed by addition of 1,3-dimethylamino propyl-3-ethylcarbodiimide (EDC, 10 g, 51 mmol). The reaction mixture was allowed to warm to room temperature and then stirred overnight. EtOAc (300 mL) was added. The resulting solution washed with aqueous citric acid solution, aqueous NaHCO3 solution, and aqueous NaCl solution. The organic layer was separated, dried with MgSO4, and then evaporated to yield [cyclohexyl-(methoxy-methyl-carbamoyl)-methyl]-carbamic acid tert-butyl ester as a colorless oil, which was used in the next step without further purification.

reactant | Boc-D-cyclohexylglycine | 39 mmol, 10 g | CC(C)(C)OC(=O)N[C@H](C1CCCCC1)C(=O)O | C13H23NO4
reactant | N,O-dimethylhydroxyamine HCl salt | 46 mmol, 4.6 g | Cl.CNOC
reactant | HOBT | 51 mmol, 7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1,3-dimethylamino propyl-3-ethylcarbodiimide | 51 mmol, 10 g | CNC(CCNC)N=C=NCC | C8H18N4
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | [cyclohexyl-(methoxy-methyl-carbamoyl)-methyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(N(C)OC)=O)C1CCCCC1)=O | C15H28N2O4
